US06110956
2-(2-Chloro-ethoxy)-4-chloro-6-nitro-phenylamine
A solution of 2-(2-chloro-ethoxy)-6-nitro-phenylamine (30.0 g, 0.14 mol), N-chlorosuccinimide and acetonitrile (1.3 L) was refluxed for 4 hours. The mixture was concentrated under vacuum and the residue was diluted with ethyl acetate (500 ml). The organic layer was washed with water (2×250 ml) and brine (250 ml), dried over anhydrous magnesium sulfate, filtered, and the solvent removed under vacuum to give an orange solid residue. Crystallization from ethyl acetate-hexanes gave 33.5 g (95.3%) of product as an orange solid: mp 109-110° C.; MS (EI) 250/252/254 m/e (M+).

reactant | 2-(2-chloro-ethoxy)-6-nitro-phenylamine | 0.14 mol, 30.0 g | ClCCOC1=C(C(=CC=C1)[N+](=O)[O-])N | C8H9ClN2O3
reactant | N-chlorosuccinimide | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | acetonitrile | 1.3 L | C(C)#N | C2H3N
product | 2-(2-Chloro-ethoxy)-4-chloro-6-nitro-phenylamine | 33.5 g, 95.3% | ClCCOC1=C(C(=CC(=C1)Cl)[N+](=O)[O-])N | C8H8Cl2N2O3
